US05686481
1-(3,4-Methylenedioxybenzyl)-3-(4-methoxyphenyl)indole-2-carboxylic acid
Ethyl 1-(3,4-methylenedioxybenzyl)-3-(4-methoxyphenyl)indole-2-carboxylate. To a solution of ethyl 3-(4-methoxyphenyl)indole-2-carboxylate (110 mg, 0.37 mmol) in HMPA (2 mL) stirred at ice bath temperature under an argon atmosphere was added NaH (14 mg of 80% oil dispersion, 0.46 mmol, oil removed by pentane wash). After 15 min a solution of piperonyl chloride (128 mg, 0.75 mmol) in HMPA (0.5 mL) was added and the ice bath removed. The reaction mixture was stirred 7 h at room temperature then partitioned between 3N HCl (25 mL) and EtOAc (50 mL). The organic extract was washed successively with H2O, aqueous NaHCO3, H2O and saturated aqueous NaCl and dried (Na2SO4). The solvent was removed in vacuo. The residue was purified by chromatography (silica gel, gradient elution from 25% Et2O/hexanes to 45% Et2O/hexanes) to afford the title compound (105 mg, 66%)

reactant | Ethyl 1-(3,4-methylenedioxybenzyl)-3-(4-methoxyphenyl)indole-2-carboxylate | C1OC=2C=C(CN3C(=C(C4=CC=CC=C34)C3=CC=C(C=C3)OC)C(=O)OCC)C=CC2O1 | C26H23NO5
reactant | ethyl 3-(4-methoxyphenyl)indole-2-carboxylate | 0.37 mmol, 110 mg | COC1=CC=C(C=C1)C1=C(NC2=CC=CC=C12)C(=O)OCC | C18H17NO3
reactant | NaH | 0.46 mmol, 14 mg | [H-].[Na+]
reactant | piperonyl chloride | 0.75 mmol, 128 mg | C(C1=CC=2OCOC2C=C1)Cl | C8H7ClO2
solvent | HMPA | 2 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | HMPA | 0.5 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 1-(3,4-Methylenedioxybenzyl)-3-(4-methoxyphenyl)indole-2-carboxylic acid | 105 mg, 66% | C1OC=2C=C(CN3C(=C(C4=CC=CC=C34)C3=CC=C(C=C3)OC)C(=O)O)C=CC2O1 | C24H19NO5
